US04077954
A. N-(p-methylphenethyl)-4a-(m-methoxyphenyl)-1,3-diketo1,2,3,4,4a,5,6,7-octahydroisoquinoline
4a-(m-Methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline (6 g) in 75 ml of anhydrous dimethylformamide was added to a 55% suspension of sodium hydride in mineral oil (1.2 g) in 50 ml of dimethylformamide at 70°. The reaction mixture was heated for one hour at 80° and then cooled to 25°. p-Methylphenethyl mesylate (7.0 g) was added and the reaction heated at 70° for 18 hours. It was poured into water and extracted with ether. The residue after evaporation of the ether was chromatographed on 800 g. of Florisil. This yielded 4.4 g, mp 134°-140°; recrystallized from ethanol, mp 149°-151°.

reactant | 4a-(m-Methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 6 g | COC=1C=C(C=CC1)C12CC(NC(C2=CCCC1)=O)=O | C16H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | p-Methylphenethyl mesylate | 7.0 g | S(C)(=O)(=O)OCCC1=CC=C(C=C1)C | C10H14O3S
reactant | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-(p-methylphenethyl)-4a-(m-methoxyphenyl)-1,3-diketo1,2,3,4,4a,5,6,7-octahydroisoquinoline | CC1=CC=C(CCN2C(C3=CCCCC3(CC2=O)C2=CC(=CC=C2)OC)=O)C=C1 | C25H27NO3
